US09056873B2
Step A: tert-butyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-7-fluoro-4-(isothiazol-5-yl)-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate
A solution of tert-butyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (60 mg, 0.120 mmol), 5-(tributylstannyl)isothiazole (67.5 mg, 0.180 mmol) and tetrakis(triphenylphosphine)palladium(0) (69.5 mg, 0.060 mmol) in toluene (2.0 mL) was heated to 120° C. for 45 minutes via microwave irradiation. The reaction mixture was subsequently poured into water and was extracted with EtOAc. The extracts were dried over Na2SO4 and concentrated in vacuo. The residue was purified by silica gel chromatography (Flash 60 column) eluting with hexane/EtOAc (1:1) to give the title compound as a yellow solid. ESI-MS m/z [M+H]+ calc'd for C26H34FN5O5S, 548. found, 548.

reactant | tert-butyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 0.120 mmol, 60 mg | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=C(C2=C(C(=N1)Cl)C(N(C2)C(=O)OC(C)(C)C)=O)F | C23H32ClFN4O5
reactant | 5-(tributylstannyl)isothiazole | 0.180 mmol, 67.5 mg | C(CCC)[Sn](C1=CC=NS1)(CCCC)CCCC
reactant | water | O | H2O
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.060 mmol, 69.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexylamino)-7-fluoro-4-(isothiazol-5-yl)-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=C(C2=C(C(=N1)C1=CC=NS1)C(N(C2)C(=O)OC(C)(C)C)=O)F | C26H34FN5O5S
